US09212182B2
(1R,2R,4S)-ethyl 7-oxabicyclo[2.2.1]heptane-2-carboxylate (3.63 g, 21.33 mmol) was dissolved in ethanol (107 ml) and cooled to 0° C. Sodium borohydride (4.84 g, 128 mmol) was added portionwise and the reaction was warmed to room temperature and stirred overnight. The reaction was quenched with saturated NH4Cl solution and extracted three times with ethyl acetate. The combined organic layers were washed with brine, dried over sodium sulfate, filtered, and concentrated. The material was purified via column chromatography (RediSep Gold 40 g, gradient elution 0-100% EtOAc:Heptane) to afford (1R,2S,4S)-7-oxabicyclo[2.2.1]heptan-2-ylmethanol (0.973 g, 7.59 mmol, 35.6% yield) as a clear colorless oil. 1H NMR (400 MHz, CHLOROFORM-d) δ=4.57 (t, J=5.0 Hz, 1H), 4.49 (d, J=5.1 Hz, 1H), 3.78 (dd, J=6.8, 10.7 Hz, 1H), 3.57 (dd, J=9.3, 10.6 Hz, 1H), 3.51-3.42 (m, 2H), 2.44-2.31 (m, 1H), 2.00-1.92 (m, 1H), 1.85-1.79 (m, 1H), 1.76-1.69 (m, 2H), 1.60 (dd, J=8.6, 12.1 Hz, 1H), 1.49-1.43 (m, 2H), 1.39-1.31 (m, 1H), 1.29-1.24 (m, 1H), 0.94 (dd, J=5.1, 11.9 Hz, 1H)

reactant | (1R,2R,4S)-ethyl 7-oxabicyclo[2.2.1]heptane-2-carboxylate | 21.33 mmol, 3.63 g | [C@H]12[C@@H](C[C@H](CC1)O2)C(=O)OCC | C9H14O3
reactant | Sodium borohydride | 128 mmol, 4.84 g | [BH4-].[Na+]
solvent | ethanol | 107 ml | C(C)O | C2H6O
product | (1R,2S,4S)-7-oxabicyclo[2.2.1]heptan-2-ylmethanol | 7.59 mmol, 0.973 g, 35.6% yield | [C@H]12[C@@H](C[C@H](CC1)O2)CO | C7H12O2
